### PR TITLE
[Merged by Bors] - feat(NumberTheory/Height/MvPolynomial): add height bounds for `![a*c, a*d+b*c, b*d]`

### PR DESCRIPTION
**Pull request by MichaelStollBayreuth**
This continuous the motive of height bounds on polynomial maps; this time for the specific case of ``![a*c, a*d + b*c, b*d]`. This specific case is used to deduce the "approximate parallelogram law" for the naïve height on an elliptic curve, which in turn is an ingredient for the proof of the Mordell-Weil Theorem.

---

- [x] depends on: #35940

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/Height/MvPolynomial.lean [hunk 1]
```diff
@@ -0,0 +1,644 @@
...
+    ext1 j
+    fin_cases j <;> simp [e]
+  rw [← logHeight_comp_equiv e, he, logHeight_sumElim_zero_eq]
+
+omit [AdmissibleAbsValues K] in
+private lemma ne_zero_of_tuple_ne_zero {a : K} (ha : ![a, 0] ≠ 0) : a ≠ 0 := by
+  obtain ⟨i, hi⟩ := Function.ne_iff.mp ha
+  fin_cases i
+  · simpa using hi
+  · simp at hi
```
Comment (jcommelin) [inline Mathlib/NumberTheory/Height/MvPolynomial.lean]: This should be `contrapose! ha; subst ha; simp`.. I think?

Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/Height/MvPolynomial.lean]: I've inlined this now.

**Review by riccardobrasca — COMMENTED** [review]
Thanks!

bors merge
